US07060697B2
2-trifluoromethyl-biphenyl-4-ylamine (175 mg, 0.7377 mmol, 1 eq.) is dissolved in a mixture of CH3OH (0.75 mL), H2O (0.75 mL), and concentrated aqueous HCl (0.4 mL). This solution is cooled to 0° C. and a solution of NaNO2 (71 mg, 1.033 mmol, 1.4 eq.) dissolved in H2O (0.30 mL) is added slowly over 1 h, keeping the reaction temperature at 0° C. After this addition is complete, the reaction mixture is quickly added to a solution of O-ethyl-xanthic acid potassium salt (237 mg, 1.475 mmol, 2 eq.) in H2O (0.70 mL) which has been pre-heated to 65° C. This reaction mixture is stirred at 65° C. for 15 min. After cooling to room temperature, the reaction is diluted with EtOAc and washed with H2O followed by saturated aqueous NaCl. The organic solution is dried over Na2SO4. After concentration, the residue is purified by silica gel chromatography (9:1 hexanes/EtOAc) to give dithiocarbonic acid O-ethyl ester S-(2-trifluoromethyl-biphenyl-4-yl) ester.

reactant | 2-trifluoromethyl-biphenyl-4-ylamine | 0.7377 mmol, 175 mg, 1 eq. | FC(C1=C(C=CC(=C1)N)C1=CC=CC=C1)(F)F | C13H10F3N
reactant | NaNO2 | 1.033 mmol, 71 mg, 1.4 eq. | N(=O)[O-].[Na+]
reactant | O-ethyl-xanthic acid potassium salt | 1.475 mmol, 237 mg, 2 eq. | [K+].C(C)OC(=S)[S-]
solvent | CH3OH | 0.75 mL | CO | CH4O
solvent | H2O | 0.75 mL | O | H2O
solvent | HCl | 0.4 mL | Cl | ClH
solvent | H2O | 0.30 mL | O | H2O
solvent | H2O | 0.70 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | dithiocarbonic acid O-ethyl ester S-(2-trifluoromethyl-biphenyl-4-yl) ester | FC(C1=C(C=CC(=C1)SC(OCC)=S)C1=CC=CC=C1)(F)F | C16H13F3OS2
